US06972340B2
2,6-dihydroxy-4-pentylbenzoic acid
A mixture of olivetol (2.1 g, 12 mM), KHCO3 (4.9 g, 39 mM), and solid CO2 (1.95 g, 44.3 mM) in glycerol (5.1 mL) was heated in a stainless steel bomb to 145° C. at 220 psi for 5 hours. The reaction was cooled and removed from the reaction vessel using water to transfer. The aqueous solution was carefully acidified to a pH=3 with 1 N HCl to give a precipitate. The solids were filtered, washed with water and dried to give the desired product. MS (ESI(−)) m/e 223 (M−H)+; 1H NMR (300 MHz, CDCl3) δ 9.40 (bs, 2H), 6.37 (s, 2H), 2.52 (t, 2H), 1.66-1.57 (m, 2H), 1.37-1.29 (m, 4H), 0.93-0.87 (m, 3H).

reactant | olivetol | 12 mM, 2.1 g | C1(=CC(O)=CC(CCCCC)=C1)O | C11H16O2
reactant | CO2 | 44.3 mM, 1.95 g | C(=O)=O | CO2
solvent | glycerol | 5.1 mL | OCC(O)CO | C3H8O3
product | 2,6-dihydroxy-4-pentylbenzoic acid | OC1=C(C(=O)O)C(=CC(=C1)CCCCC)O | C12H16O4
